US05698584
Step 2 3-Fluorophenylacetic acid, 1,1-dimethyl-2-(4-(methylsulfonyl)phenyl)-2-oxo-ethyl ester
A mixture of 2-hydroxy-4'-(methylsulfonyl)isobutyrophenone (100 g), 3-fluorophenylacetic acid (83 g), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (225 g) and DMAP (25 g) in CH2Cl2 (2 L) was mechanically stirred for 17 h at r.t. A solution of 1M HCl (1 L) was then added and the organic phase was separated, washed with a saturated solution of Na2 CO3 (0.4 L) and dried over MgSO4. After concentration, the residue was purified by silica gel chromatography, eluting with 30% EtOAc/hexanes to give the title compound as a white solid (133 g).

reactant | 2-hydroxy-4'-(methylsulfonyl)isobutyrophenone | 100 g | OC(C(=O)C1=CC=C(C=C1)S(=O)(=O)C)(C)C | C11H14O4S
reactant | 3-fluorophenylacetic acid | 83 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 225 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
reactant | HCl | 1M, 1 L | Cl | ClH
catalyst | DMAP | 25 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
product | 3-Fluorophenylacetic acid, 1,1-dimethyl-2-(4-(methylsulfonyl)phenyl)-2-oxo-ethyl ester | 133 g | FC=1C=C(C=CC1)CC(=O)OC(C(=O)C1=CC=C(C=C1)S(=O)(=O)C)(C)C | C19H19FO5S
